US04874759
N,N-Dibutyl-5-hydroxy-2-methyl-1-(2-phenylethyl)-4-piperidinomethylindole-3-carboxamide [Compound (3)]
Piperidine (11 g) and 11 g of 37% formalin were added to a solution of 44 g of N,N-dibutyl-5-hydroxy-2-methyl-1-(2-phenylethyl)indole-3-carboxamide in 20 m of acetic acid, and the mixture was stirred at 60° C. for 2 hours. The acetic acid was distilled off under reduced pressure. Water was added to the residue, which was made alkaline with potassium carbonate, followed by extraction with ethyl acetate. After the organic layer was washed with water and dried, the solvent was distilled off. Hexane was added to the residue to separate crystals. The crystals were collected by filtration and recrystallized from isopropyl ether to give 31 g of the titled compound as white crystals, m.p. 105°-107° C.

reactant | Piperidine | 11 g | N1CCCCC1 | C5H11N
reactant | formalin | 11 g | C=O | CH2O
reactant | N,N-dibutyl-5-hydroxy-2-methyl-1-(2-phenylethyl)indole-3-carboxamide | 44 g | C(CCC)N(C(=O)C1=C(N(C2=CC=C(C=C12)O)CCC1=CC=CC=C1)C)CCCC | C26H34N2O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N,N-Dibutyl-5-hydroxy-2-methyl-1-(2-phenylethyl)-4-piperidinomethylindole-3-carboxamide | 31 g | C(CCC)N(C(=O)C1=C(N(C2=CC=C(C(=C12)CN1CCCCC1)O)CCC1=CC=CC=C1)C)CCCC | C32H45N3O2
